US05258519
A solution of 10.0 g (52.3 mmol) of N-(2-hydroxyethyl)phthalimide, 8.84 ml (67.7 mmol) of 2,2,6-trimethyl-1,3-dioxen-4-one, and 10 mg of p toluenesulfonic acid in 50 ml of toluene is heated at reflux under N2 for 4 hr. The solvent is removed under vacuum and the dark-colored residue is flash chromatographed on silica gel (1:1 hexane-EtOAc). The resulting product is recrystallized from EtOAc to give 11.0 g of 2-phthalimidoethyl acetoacetate.

reactant | N-(2-hydroxyethyl)phthalimide | 52.3 mmol, 10.0 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 67.7 mmol, 8.84 ml | CC1=CC(=O)OC(O1)(C)C | C7H10O3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phthalimidoethyl acetoacetate | 11.0 g | C(CC(=O)C)(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
